US04126444
3-[(5-methyl-2-phenyl-4-imidazolyl)methylene]carbazic acid ethyl ester
A mixture of 5-methyl-2-phenyl-4imidazolecarboxaldehyde (10.25 g), ethyl carbazate (5.72 g) and ethanol (30 ml) containing 1 drop of acetic acid is heated at the boil for 30 minutes. The mixture is then concentrated under an air stream on a steam bath. Next, carbon tetrachloride (50 ml) is added and the mixture cooled at 0° C overnight. The solid is collected giving the title product, m.p. 209°-211° C.

reactant | 5-methyl-2-phenyl-4imidazolecarboxaldehyde | 10.25 g | CC1=C(N=C(N1)C1=CC=CC=C1)C=O | C11H10N2O
reactant | ethyl carbazate | 5.72 g | C(NN)(=O)OCC | C3H8N2O2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-[(5-methyl-2-phenyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C)C1=CC=CC=C1)=O | C14H16N4O2
